US05753679
0.27 g (0.001 mol) of 1-(4-bromo-benzyl)-piperidin-4-ol and 0.359 ml (0.0025 mol) of triethylamine were dissolved in 10 ml of toluene, treated with 0.16 ml (0.00125 mol) of 4-chlorobenzoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:2). 0.333 g (81.5%) of 1-(4-bromo-benzyl)-piperidin-4-yl 4-chloro-benzoate was obtained as a colorless oil.

reactant | 1-(4-bromo-benzyl)-piperidin-4-ol | 0.001 mol, 0.27 g | BrC1=CC=C(CN2CCC(CC2)O)C=C1 | C12H16BrNO
reactant | triethylamine | 0.0025 mol, 0.359 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 0.00125 mol, 0.16 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-bromo-benzyl)-piperidin-4-yl 4-chloro-benzoate | 0.333 g, 81.5% | ClC1=CC=C(C(=O)OC2CCN(CC2)CC2=CC=C(C=C2)Br)C=C1 | C19H19BrClNO2
